US04460580
A solution of 23 g of crude (R)-α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol in 230 ml of methanol is hydrogenated, with the addition of 5 g of palladium-charcoal catalyst (5%), under normal conditions until 1 mol-equivalent of hydrogen has been absorbed. The catalyst is subsequently filtered off, is washed with methanol, and the combined methanolic solutions are concentrated under reduced pressure. The crystalline residue is recrystallised from methanol and yields (R)-(-)-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol, m.p. 166°-172°; [α]D =-23°±1° (C=0.6% in methanol).

reactant | (R)-α-[N-benzyl-N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | 23 g | C(C1=CC=CC=C1)N(CCOC1=CC(=C(C=C1)O)C(N)=O)C[C@@H](C1=CC=CC=C1)O | C24H26N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 230 ml | CO | CH4O
catalyst | palladium-charcoal | 5 g | [Pd] | Pd
product | (R)-(-)-α-[N-[2-(3-carbamoyl-4-hydroxy-phenoxy)-ethyl]-aminomethyl]-benzyl alcohol | C(N)(=O)C=1C=C(OCCNC[C@@H](C2=CC=CC=C2)O)C=CC1O | C17H20N2O4
